US08076329B2
Following the procedure described in example 1§A, but starting from O-(3-chloropropyl)phenol (3.41 g), 4-aminobutanoic acid (2.06 g) and polyphosphoric acid (36 g) gives 0.44 g of 2-[4-(3-chloropropoxy)phenyl]-4,5-dihydro-3H-pyrrole.

reactant | O-(3-chloropropyl)phenol | 3.41 g | ClCCCOC1=CC=CC=C1 | C9H11ClO
reactant | 4-aminobutanoic acid | 2.06 g | NCCCC(=O)O | C4H9NO2
product | 2-[4-(3-chloropropoxy)phenyl]-4,5-dihydro-3H-pyrrole | 0.44 g | ClCCCOC1=CC=C(C=C1)C1=NCCC1 | C13H16ClNO
